US07868036B2
e) tert-Butyl 4-{2-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methylbutyl}-2,2-dimethyloxazolidine-3-carboxylate
A solution of 2.80 g of tert-butyl 4-(2-{(2-methoxyacetoxy)-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]-methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (diastereomer mixture) in 140 ml of ethanol is hydrogenated at 0° C. in the presence of 0.294 ml of ethanolamine and 3.34 g of 10% Pd/C over 3.5 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.48 (1:1 EtOAc-heptane). Rt=29.41 (gradient II).

reactant | tert-butyl 4-(2-{(2-methoxyacetoxy)-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-yl]-methyl}-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 2.80 g | COCC(=O)OC(C(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C)C=1C=C2C(=CN(C2=CC1)C)CCCOC | C32H50N2O7
reactant | ethanolamine | 0.294 ml | C(O)CN | C2H7NO
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | Pd/C | 3.34 g | [Pd] | Pd
product | tert-Butyl 4-{2-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-3-methylbutyl}-2,2-dimethyloxazolidine-3-carboxylate | COCCCC1=CN(C2=CC=C(C=C12)CC(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C)C | C29H46N2O4
